US09108969B2
Step A: Preparation of Methyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
Methyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.923 g, 1.54 mmol) was mostly dissolved in anhydrous THF (15.4 mL) to give a turbid suspension which was degassed with N2 for about 15 min. Bis(tri-t-butylphosphine)Pd(0) (0.071 g, 0.139 mmol) and 2.0 M methylzinc chloride in THF (2.318 mL, 4.64 mmol) were added at 25° C. The reaction mixture was sealed and heated at 70° C. to give a dark suspension. After 2 h at 70° C., the reaction mixture was cooled to 25° C., quenched with NaHCO3 (4 mL), stirred for 5 min, and filtered through a celite pad. The filtrate was diluted with MTBE, washed with H2O (twice), brine, and dried over MgSO4. The solvent was evaporated in vacuo to give a solid. The solid was dissolved in DCM/hexanes (1:1) and purified by silica gel column chromatography to give the titled compound (0.582 g) as a white solid. LCMS m/z=486.5 [M+H]+. 1H NMR (400 MHz, CDCl3) δ ppm 1.58-1.66 (m, 2H), 1.67-1.79 (m, 2H), 1.80-1.91 (m, 2H), 2.05-2.14 (m, 2H), 2.23 (s, 3H), 2.26-2.36 (m, 1H), 2.51 (dd, J=−15.92, 10.11 Hz, 1H), 2.82-2.90 (m, 1H), 2.94 (dd, J=15.79, 4.67 Hz, 1H), 3.32-3.43 (m, 1H), 3.73 (s, 3H), 3.75-3.80 (m, 1H), 3.92-4.01 (m, 1H), 4.02-4.10 (m, 1H), 5.09 (s, 2H), 6.86 (dd, J=8.72, 2.40 Hz, 1H), 7.04 (d, J=2.27 Hz, 1H), 7.10 (d, J=8.84 Hz, 1H), 7.47 (d, J=8.08 Hz, 1H), 7.61 (d, J=8.08 Hz, 1H), 7.71 (s, 1H).

reactant | Methyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 1.54 mmol, 0.923 g | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC)I)C=C1)C(F)(F)F | C27H27F3INO3
reactant | methylzinc chloride | 2.0 M | [Cl-].C[Zn+]
solvent | THF | 15.4 mL | C1CCOC1 | C4H8O
solvent | THF | 4.64 mmol, 2.318 mL | C1CCOC1 | C4H8O
product | Methyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.582 g | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC)C)C=C1)C(F)(F)F | C28H30F3NO3
